* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\TJB+FETs\COMB08op.asc
R2 N003 0 {R2}
Q1 N001 N004 N005 0 TBJ
R1 N002 N003 {R1}
XU1 N003 N005 Vpp Vnn N004 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
V3 N002 0 {Vi}
Rs N005 0 {Rs}
RL Vpp N001 {RL}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.param Vi=5 Vs=20 R1=220 R2=220 Rs=100 RL=120
.model TBJ NPN(IS=10F BF=150)
.lib UniversalOpAmp2.lib
.backanno
.end
